US08283361B2
Methyl 5-bromo-2-(3-ethylureido)isonicotinate
A solution of methyl 2-amino-5-bromoisonicotinate (50 g, 216.5 mmol) in chloroform (500 mL) was placed into a sealed tube. Ethyl isocyanate (51 mL, 649.4 mmol) was then added in two parts over the course of 6 hours. The sealed tube was insulated and heated at 40° C. for 3 d. The reaction mixture was then cooled to room temperature, concentrated under reduced pressure, and extracted with ethyl acetate (3 L) and water (1 L). The ethyl acetate layer was then dried with sodium sulfate, filtered, and concentrated under reduced pressure to yield 68.4 g of a pale yellow solid (96%).

reactant | methyl 2-amino-5-bromoisonicotinate | 216.5 mmol, 50 g | NC=1C=C(C(=O)OC)C(=CN1)Br | C7H7BrN2O2
reactant | Ethyl isocyanate | 649.4 mmol, 51 mL | C(C)N=C=O | C3H5NO
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 5-bromo-2-(3-ethylureido)isonicotinate | 68.4 g, 96% | BrC1=CN=C(C=C1C(=O)OC)NC(=O)NCC | C10H12BrN3O3
